US07119104B2
(1) Ethyl 2-[[7-allyl-3-[2-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]ethyl]-1,2-benzisoxazol-6-yl]oxy]-2-methylpropionate
7-Allyl-6-hydroxy-3-[2-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]ethyl]-1,2-benzisoxazole (92 mg, 0.20 mmol), ethyl 2-bromo-2-methylpropionate (196 mg, 1.00 mmol) and potassium carbonate (138 mg, 1.00 mmol) were suspended in methyl ethyl ketone (5.0 mL). The suspension was refluxed for 20 hours, and allowed to room temperature. After insoluble was filtered off, the filter cake was washed with methyl ethyl ketone. The filtrate and washings were combined, and concentrated. The residue was purified by column chromatography on silica gel with hexane/ethyl acetate (5/1) to give the desired compound (100 mg) as colorless oil (quantitative yield).

reactant | 7-Allyl-6-hydroxy-3-[2-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]ethyl]-1,2-benzisoxazole | 0.20 mmol, 92 mg | C(C=C)C1=C(C=CC=2C(=NOC21)CCC=2N=C(OC2C(C)C)C2=C(C=C(C=C2)Cl)Cl)O | C24H22Cl2N2O3
reactant | ethyl 2-bromo-2-methylpropionate | 1.00 mmol, 196 mg | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 1.00 mmol, 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 5.0 mL | C(C)C(=O)C | C4H8O
product | Ethyl 2-[[7-allyl-3-[2-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]ethyl]-1,2-benzisoxazol-6-yl]oxy]-2-methylpropionate | 100 mg, quantitative yield | C(C=C)C1=C(C=CC=2C(=NOC21)CCC=2N=C(OC2C(C)C)C2=C(C=C(C=C2)Cl)Cl)OC(C(=O)OCC)(C)C | C30H32Cl2N2O5
